US08026372B2
H-Orn(Boc)-OH
A solution of di-t-butyl dicarbonate (2.36 g, 10.8 mmol) in THF (10 mL) was treated with benzotriazole (1.42 g, 11.9 mmol) and dimethylaminopyridine (4 mg, 0.03 mmol). After 1 hour the mixture was slowly poured, stirring at 0° C. and maintaining pH 12 with aqueous sodium hydroxide, into a solution of L-ornithine hydrochloride (2.0 g, 11.9 mmol) in water (10 mL) at pH 12. After further 2 hours THF was removed at reduced pressure. The remaining water solution was extracted 3 times with ethyl acetate to recover 48% of the initial benzotriazole. The solution was then treated with hydrochloric acid to pH 5.6, obtaining the precipitation of a solid, which was stirred overnight and filtered. The product (2.63 g, 83%) is the complex 1/2 benzotriazole with H-Orn(Boc)-OH (1H-NMR, 13C-NMR, LC-MS), which can be used directly or purified. The product contains approximately 7% ornithine and 4% Boc-Orn-OH.

reactant | di-t-butyl dicarbonate | 10.8 mmol, 2.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzotriazole | 11.9 mmol, 1.42 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | dimethylaminopyridine | 0.03 mmol, 4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | L-ornithine hydrochloride | 11.9 mmol, 2.0 g | Cl.N[C@@H](CCCN)C(=O)O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | H-Orn(Boc)-OH | N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C10H20N2O4
